US06576643B2
c) Ethyl (±)-10,11-dihydro-3-hydroxy-2-methyl-5H-dibenzo[a,d]cycloheptene-10-acetate
To dry CH2Cl2 (30 mL) cooled in an ice bath was added diethylsulfide (0.38 mL, 3.3 mmol) followed by AlCl3 (438 mg, 3.3 mmol). To this solution was added dropwise a solution of ethyl (±)-10,11-dihydro-3-methoxy-2-methyl-5H-dibenzo[a,d]cycloheptene-10-acetate (200 mg, 0.6 mmole) in dry CH2Cl2 (6 mL), and the resulting mixture was stirred at RT for 2 hr. The reaction was quenched with 1.0 N HCl (10 mL), and the layers were separated. The organic layer was dried (MgSO4) and concentrated on the rotavap to give the title compound (100 mg, 56%) as a colorless oil: MS (ES) m/e 311.2 (M+H)+.

reactant | diethylsulfide | 3.3 mmol, 0.38 mL | C(C)SCC | C4H10S
reactant | AlCl3 | 3.3 mmol, 438 mg | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | ethyl (±)-10,11-dihydro-3-methoxy-2-methyl-5H-dibenzo[a,d]cycloheptene-10-acetate | 0.6 mmole, 200 mg | COC=1C(=CC2=C(CC3=C(C(C2)CC(=O)OCC)C=CC=C3)C1)C | C21H24O3
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | Ethyl (±)-10,11-dihydro-3-hydroxy-2-methyl-5H-dibenzo[a,d]cycloheptene-10-acetate | 100 mg, 56% | OC=1C(=CC2=C(CC3=C(C(C2)CC(=O)OCC)C=CC=C3)C1)C | C20H22O3
